US09216980B2
Step 4: 6-(1H-1,2,3-Triazol-4-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
To a solution of 6′-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)[3,4′]bipyridinyl-3′-ylamine (80 mg, 0.16 mmol) in anhydrous tetrahydrofuran (2 mL) was added sodium bis(trimethylsilyl)amide (1N solution in THF, 0.46 mL, 0.46 mmol) under a flow of nitrogen and the reaction mixture was stirred at room temperature for 2 h. The reaction mixture was then evaporated in vacuo to afford a residue that was purified by preparative HPLC (20-60% MeCN in water (0.1% ammonium hydroxide) over 30 min, 35 mL/min) to afford the title compound as an orange solid (10 mg, 10%). NMR (DMSO-D6, 500 MHz): 12.33 (s, 1H), 9.12 (s, 1H), 8.95 (s, 1H), 8.94 (d, J=2.2 Hz, 1H), 8.88 (s, 1H), 8.31 (s, 1H), 7.80 (d, J=8.1 Hz, 2H), 7.44 (d, J=8.0 Hz, 2H), 3.49 (s, 2H), 2.36 (s, 4H), 1.52 (m, 4H), 1.41 (m, 2H), triazole NH not observed. LCMS (Method D): RT=6.68 min, M+H+=410.

reactant | 6′-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)[3,4′]bipyridinyl-3′-ylamine | 0.16 mmol, 80 mg | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C31H30FN7
reactant | sodium bis(trimethylsilyl)amide | 0.46 mmol, 1N, 0.46 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-(1H-1,2,3-Triazol-4-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 10 mg, 10% | N1N=NC(=C1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C24H23N7
